US04797496
4-Hydroxy-2-oxo-1-pyrrolidineacetamide (oxiracetam)
A solution of 2-methylpropyl 2-(1-methylethyl)-4-oxoimidazolidine-β-hydroxybutanoate (15 g, 52.4 mmol), benzoic acid (6.4 g, 52.4 mmol) and water (3.75 ml, 208 mmol) in n-pentanol (90 ml) was refluxed under nitrogen for 6 hr. After cooling the mixture was extracted twice with water (35 ml). The aqueous extracts were evaporated to dryness and the residue was crystallized from methanol to give 5.15 g (62.1%) of the title compound, m.p. 167°-70° C.

reactant | 2-methylpropyl 2-(1-methylethyl)-4-oxoimidazolidine β-hydroxybutanoate | 52.4 mmol, 15 g | CC(CN1C(NC(C1)=O)C(C)C)C.OC(CC(=O)[O-])C
reactant | benzoic acid | 52.4 mmol, 6.4 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | water | 208 mmol, 3.75 ml | O | H2O
solvent | n-pentanol | 90 ml | C(CCCC)O | C5H12O
product | 4-Hydroxy-2-oxo-1-pyrrolidineacetamide | 5.15 g, 62.1% | OC1CC(N(C1)CC(=O)N)=O | C6H10N2O3
